US05482948
5E-6-(3-(2-Carbamoyl-3-(2-methylpropyl)guanidino)-phenyl)-6-(3-pyridyl)hex-5-enoic acid
1.34 g of 5E-6-(3-(2-cyano-3-(2-methylpropyl)guanidino)phenyl)-6-(3-pyridyl)hex-5-enoic acid are dissolved in 50 ml of 4N hydrochloric acid and stirred for 48 hours at ambient temperature. The solution is adjusted to pH 5-6 by the addition of sodium acetate and extracted with ethyl acetate. The organic extract is evaporated down and the residue is purified over a silica gel column with dichloromethane/ethanol=19:1.

reactant | 5E-6-(3-(2-cyano-3-(2-methylpropyl)guanidino)phenyl)-6-(3-pyridyl)hex-5-enoic acid | 1.34 g | C(#N)N=C(NC=1C=C(C=CC1)\C(=C/CCCC(=O)O)\C=1C=NC=CC1)NCC(C)C | C23H27N5O2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | hydrochloric acid | 4N, 50 ml | Cl | ClH
product | 5E-6-(3-(2-Carbamoyl-3-(2-methylpropyl)guanidino)-phenyl)-6-(3-pyridyl)hex-5-enoic acid | C(N)(=O)N=C(NC=1C=C(C=CC1)\C(=C/CCCC(=O)O)\C=1C=NC=CC1)NCC(C)C | C23H29N5O3
